US07169926B1
A solution of {3-[5-benzyl-3-(2-cyano-benzyl)-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl]-cyclohexyl}-carbamic acid benzyl ester (78 mg, 0.14 mmol) in 1:3 EtOH/THF (8 mL) was hydrogenated over 10% Pd/C (73 mg, 0.068 mmol) at room temperature. After 2 h, the catalyst was removed by filtration, rinsing with MeOH, and the filtrate was concentrated in vacuo. The crude product was purified by flash chromatography, eluting with 94:6:0.5 CH2Cl2/MeOH/NH4OH to give 2-[2-(3-amino-cyclohexyl)-5-benzyl-4-oxo-4,5-dihydro-imidazo[4,5-c]pyridin-3-ylmethyl]-benzonitrile (45 mg, 75% yield). The HCl salt was prepared by treating the amine in EtOAc with ethereal HCl (0.2 mL). 1H-NMR (500 MHz, 1 mL CDCl3+1 δ L d-Trifluoroacetic acid: 8 (dd, 1H, J=7.8, 1.4 Hz), 7.62 (dt, 1H, J=7.8, 1.4 Hz), 7.53 (dt, 1H, J=7.8, 1.4 Hz), 7.49 (d, 1H, J=7.5 Hz), 7.37 (br m, 5H), 7.26 (dd, 1H, J=7.8, 1.4 Hz), 6.60 (d, 1H, J=7.5 Hz), 6.35 (d, 1H, J=16.3 Hz), 6.17 (d, 1H, J=16.3 Hz), 5.28 (d, 1H, J=14.0 Hz), 5.25 (d, 1H, J=14.0 Hz), 3.45 (br s, 1H), 3.34 (br t, 1H, J=11.7 Hz), 2.38 (br d, 1H, J=11.7 Hz), 2.29 (q, 1H, J=11.7 Hz), 2.15 (br d, 1H, J=11.7 Hz), 2.0 (br d, 1H, J=13.3 Hz), 1.66 (m, 2H), 1.59 (q, 1H, J=11.7 Hz), 1.48 (br t, 1H, J=11.7 Hz). MS: calculated for C27H27N5O+H 438.2; found: 438.3.

reactant | {3-[5-benzyl-3-(2-cyano-benzyl)-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl]-cyclohexyl}-carbamic acid benzyl ester | 0.14 mmol, 78 mg | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=C2)CC2=CC=CC=C2)=O)N1CC1=C(C=CC=C1)C#N)=O | C35H33N5O3
catalyst | Pd/C | 0.068 mmol, 73 mg | [Pd] | Pd
solvent | EtOH THF | 8 mL | CCO.C1CCOC1
product | 2-[2-(3-amino-cyclohexyl)-5-benzyl-4-oxo-4,5-dihydro-imidazo[4,5-c]pyridin-3-ylmethyl]-benzonitrile | 45 mg, 75% yield | NC1CC(CCC1)C1=NC2=C(C(N(C=C2)CC2=CC=CC=C2)=O)N1CC1=C(C#N)C=CC=C1 | C27H27N5O
